US06207678B1
1-Methanesulphonyloxy-3-(3,4-dichlorophenyl)-4-[2-(3-trifluoromethyl-4-fluorobenzoyl)imidazol-1-yl]butane (0.77 g) (see Preparation 80) and 4-cyclohexylquinuclidine (0.31 g) (see Preparation 1) were dissolved in acetonitrile (10 ml) and heated under reflux for 5 hours. The solvent was removed under reduced pressure, the resulting residue dissolved in dichloromethane and the solvent removed under reduced pressure. The residue was chromatographed on silica gel eluting with a solvent gradient of 95:5 changing to 80:20, by volume, dichloromethane:methanol to give 4-cyclohexyl-1-(3-[3,4-dichlorophenyl]-4-[2-(3-trifluoromethyl-4-fluorobenzoyl)imidazol-1-yl]butyl)quinuclidinium methanesulphonate (0.69 g) as a white foam.

reactant | 1-Methanesulphonyloxy-3-(3,4-dichlorophenyl)-4-[2-(3-trifluoromethyl-4-fluorobenzoyl)imidazol-1-yl]butane | 0.77 g | CS(=O)(=O)OCCC(CN1C(=NC=C1)C(C1=CC(=C(C=C1)F)C(F)(F)F)=O)C1=CC(=C(C=C1)Cl)Cl | C22H18Cl2F4N2O4S
reactant | 4-cyclohexylquinuclidine | 0.31 g | C1(CCCCC1)C12CCN(CC1)CC2 | C13H23N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 4-cyclohexyl-1-(3-[3,4-dichlorophenyl]-4-[2-(3-trifluoromethyl-4-fluorobenzoyl)imidazol-1-yl]butyl)quinuclidinium methanesulphonate | 0.69 g | CS(=O)(=O)[O-].C1(CCCCC1)C12CC[N+](CC1)(CC2)CCC(CN2C(=NC=C2)C(C2=CC(=C(C=C2)F)C(F)(F)F)=O)C2=CC(=C(C=C2)Cl)Cl | InChI=1S/C34H38Cl2F4N3O.CH4O3S/c35-28-8-6-23(21-29(28)36)25(10-16-43-17-11-33(12-18-43,13-19-43)26-4-2-1-3-5-26)22-42-15-14-41-32(42)31(44)24-7-9-30(37)27(20-24)34(38,39)40;1-5(2,3)4/h6-9,14-15,20-21,25-26H,1-5,10-13,16-19,22H2;1H3,(H,2,3,4)/q+1;/p-1
